US05824691
The mixture of 3-hydrazinobenzoic acid (5.0 g) and ethyl 2-ethoxymethylene-2-cyanoacetate (5.6 g) in ethanol (50 ml) was heated under reflux for 2 hours under stirring, and then the mixture was evaporated in vacuo. To the residue was added a mixture of ethyl acetate and water, and the mixture was adjusted to pH 8 with 20% aqueous potassium carbonate solution. The separated aqueous layer was adjusted to pH 4 with 6N-hydrochloric acid and extracted with ethyl acetate. The extract layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with a solution of ethyl acetate and diisopropyl ether and the precipitate was collected by filtration to give 3-(5-amino-4-ethoxycarbonylpyrazol-1-yl)benzoic acid (6.0 g).

reactant | 3-hydrazinobenzoic acid | 5.0 g | N(N)C=1C=C(C(=O)O)C=CC1 | C7H8N2O2
reactant | ethyl 2-ethoxymethylene-2-cyanoacetate | 5.6 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(5-amino-4-ethoxycarbonylpyrazol-1-yl)benzoic acid | 6.0 g | NC1=C(C=NN1C=1C=C(C(=O)O)C=CC1)C(=O)OCC | C13H13N3O4
